US08877801B2
To a solution of crude (E)-ethyl 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate (25 mg, 0.06 mmol) in EtOH (1.5 mL) at room temperature was added LiOH (2 N aq., 0.168 mL, 0.34 mmol), the reaction was allowed to stir at room temperature for 18 h after which time the reaction was quenched with 1 N HCl (4 mL) and concentrated in vacuo to remove EtOH. The resulting suspension was extracted with 5% MeOH/EtOAc (3×), dried, and concentrated in vacuo to give the crude product which was purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylic acid (4.98 mg, 0.01 mmol, 21% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=3.12 (s, 3H), 6.11 (d, 1H, J=15.66 Hz), 6.56 (d, 2H, J=8.59 Hz), 6.65 (d, 2H, J=9.09 Hz), 6.69 (dd, 1H, J=8.59, 2.02 Hz), 6.98 (d, 1H, J=8.59 Hz), 7.11 (d, 1H, J=2.02 Hz), 7.24 (d, 2H, J=9.09 Hz), 7.30 (d, 2H, J=9.09 Hz), 7.48 (d, 1H, J=16.17 Hz). HRMS (m/z, MH+): 418.1065.

reactant | (E)-ethyl 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate | 0.06 mmol, 25 mg | OC=1C=CC2=C(SC(=C2N(C2=CC=C(C=C2)/C=C/C(=O)OCC)C)C2=CC=C(C=C2)O)C1 | C26H23NO4S
reactant | LiOH | 0.34 mmol, 2 N, 0.168 mL | [Li+].[OH-]
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylic acid | 0.01 mmol, 4.98 mg, 21% yield | OC=1C=CC2=C(SC(=C2N(C2=CC=C(C=C2)/C=C/C(=O)O)C)C2=CC=C(C=C2)O)C1 | C24H19NO4S
